US06028074
(e) 5-Methyl-7-(2-methyl-2-propenyl)-2-(1-naphthalenylmethyl)-2H-pyrazolo-[3,4-d]pyrimidine-4,6[5H,7H]-dione
1-(Chloromethyl)naphthalene (0.214 ml) and potassium carbonate (0.60 g) were added to a suspension of 5-methyl-7-(2-methyl-2-propenyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6[5H,7H]-dione (0.215 g) in acetone (10 ml). The mixture was stirred at room temperature for 16 hours and then heated at reflux for 2 hours. The mixture was filtered and the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography over silica eluting with ethyl acetate:hexane (2:1) followed by recrystallisation from ethyl acetate/hexane to give the subtitle compound (0.062 g).

reactant | 1-(Chloromethyl)naphthalene | 0.214 ml | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | potassium carbonate | 0.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-methyl-7-(2-methyl-2-propenyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6[5H,7H]-dione | 0.215 g | CN1C(N(C=2C(C1=O)=CNN2)CC(=C)C)=O | C10H12N4O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 5-Methyl-7-(2-methyl-2-propenyl)-2-(1-naphthalenylmethyl)-2H-pyrazolo-[3,4-d]pyrimidine-4,6[5H,7H]-dione | 0.062 g | CN1C(N(C=2C(C1=O)=CN(N2)CC2=CC=CC1=CC=CC=C21)CC(=C)C)=O | C21H20N4O2
